US04705860
The last third of the cetyl-trimethylammonium hydroxide solution is neutralized with 12.39 g of 4-ethoxy-2-hydroxy-benzoic acid (the equivalent weight of which has been determined as 185.8 by titration with 0.1N sodium hydroxide solution) by scattering in as a powder. The resulting yellow solution in methanol is concentrated to dryness. 31.1 g of a slightly brownish residue are obtained, which can be purified by recrystallization from 300 ml of ethyl acetate several times. Cetyl-trimethylammonium 4-ethoxysalicylate is obtained in (slightly reddish) crystals (titration with perchloric acid in glacial acetic acid gives the expected equivalent weight).

reactant | cetyl-trimethylammonium hydroxide | [OH-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
reactant | 4-ethoxy-2-hydroxy-benzoic acid | 12.39 g | C(C)OC1=CC(=C(C(=O)O)C=C1)O | C9H10O4
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
product | Cetyl-trimethylammonium 4-ethoxysalicylate | C(C)OC=1C=C(C(C(=O)[O-])=CC1)O.C(CCCCCCCCCCCCCCC)[N+](C)(C)C | InChI=1S/C19H42N.C9H10O4/c1-5-6-7-8-9-10-11-12-13-14-15-16-17-18-19-20(2,3)4;1-2-13-6-3-4-7(9(11)12)8(10)5-6/h5-19H2,1-4H3;3-5,10H,2H2,1H3,(H,11,12)/q+1;/p-1
